US08293769B2
To a solution of 2-chloro-6-methoxybenzo[d]thiazole (2.0 g, 10 mmol) in 10 mL of NMP was added (S)-1-cyclohexylethanamine (2.3 g, 18 mmol) and DIPEA (3.5 mL, mmol). The reaction solution was stirred at 110° C. for 96 hours. The reaction was diluted with EtOAc (170 mL) and washed with saturated NaHCO3 (60 mL), 5% NaHCO3 solution (60 mL), water (60 mL), saturated NaCl (60 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give (S)—N-(1-cyclohexylethyl)-6-methoxybenzo[d]thiazol-2-amine as crude solid (3.39 grams). ES/MS m/z 291.1 (MH+).

reactant | 2-chloro-6-methoxybenzo[d]thiazole | 10 mmol, 2.0 g | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
reactant | (S)-1-cyclohexylethanamine | 18 mmol, 2.3 g | C1(CCCCC1)[C@H](C)N | C8H17N
reactant | DIPEA | 3.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 170 mL | CCOC(=O)C | C4H8O2
product | (S)—N-(1-cyclohexylethyl)-6-methoxybenzo[d]thiazol-2-amine | C1(CCCCC1)[C@H](C)NC=1SC2=C(N1)C=CC(=C2)OC | C16H22N2OS
